US05565451
This compound was prepared in a manner analogous to that of Step C of Example 3, using 0.42 gram (0.005 mole) of 3-(naphth-2-yloxymethyl)aniline hydrochloride and 0.33 gram (0.005 mole) of cyanoguanidine in 100 mL of acetone. The solid product was recrystallized from water, yielding 1.54 grams of 1-[3-(naphth-2-yloxymethyl)phenyl]-2,4-diamino-6,6-dimethyl-1,6-dihydro-1,3,5-triazine hydrochloride, mp 172°-174° C. The NMR spectrum was consistent with the proposed structure.

reactant | 3-(naphth-2-yloxymethyl)aniline hydrochloride | 0.005 mole, 0.42 gram | Cl.C1=C(C=CC2=CC=CC=C12)OCC=1C=C(N)C=CC1
reactant | cyanoguanidine | 0.005 mole, 0.33 gram | C(#N)NC(=N)N | C2H4N4
reactant | acetone | 100 mL | CC(=O)C | C3H6O
product | 1-[3-(naphth-2-yloxymethyl)phenyl]-2,4-diamino-6,6-dimethyl-1,6-dihydro-1,3,5-triazine hydrochloride | 1.54 grams | Cl.C1=C(C=CC2=CC=CC=C12)OCC=1C=C(C=CC1)N1C(=NC(=NC1(C)C)N)N | InChI=1S/C22H23N5O.ClH/c1-22(2)26-20(23)25-21(24)27(22)18-9-5-6-15(12-18)14-28-19-11-10-16-7-3-4-8-17(16)13-19;/h3-13H,14H2,1-2H3,(H4,23,24,25,26);1H
